US04978756
132 Parts of sodium hydrogen sulphide was dissolved in 400 parts of water, and stirred at 20° C. 53 Parts of 6-nitro-2-mercaptobenzothiazole, prepared as described previously herein, was added over 10 minutes; the reaction mixture was then heated to 110° C., and stirred whilst boiling the mixture under reflux conditions. After four hours boiling, the mixture was cooled to between 0° and 5° C. and stirred for one hour. The product, 6-amino-2-mercaptobenzothiazole (30.3 parts), was isolated by filtration, washed sparingly with cold water and dried at 60° C. for 24 hours.

reactant | sodium hydrogen sulphide | S.[Na]
reactant | 6-nitro-2-mercaptobenzothiazole | [N+](=O)([O-])C1=CC2=C(N=C(S2)S)C=C1 | C7H4N2O2S2
solvent | water | O | H2O
product | 6-amino-2-mercaptobenzothiazole | NC1=CC2=C(N=C(S2)S)C=C1 | C7H6N2S2
